US08669234B2
3,5-Dimethoxy-benzoic acid methyl ester (4.0 g) was dissolved in MeCN (28 mL), and NBS (4.4 g) was added at 0° C. After stirring at room temperature for 3 hours, saturated Na2SO3 (15 mL) was added. The mixture was evaporated under vacuum and extracted with ether (1×, 500 mL). After the solvent was removed, the crude material was subjected to silica gel chromatography using effluent of 10-40% ethyl acetate and hexanes. The fractions containing product were combined and the solvent was removed under reduced pressure to provide 2-bromo-3,5-dimethoxy-benzoic acid methyl ester (5.2 g, 93%) as a clear oil.

reactant | 3,5-Dimethoxy-benzoic acid methyl ester | 4.0 g | COC(C1=CC(=CC(=C1)OC)OC)=O | C10H12O4
reactant | NBS | 4.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Na2SO3 | 15 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | MeCN | 28 mL | CC#N | C2H3N
product | 2-bromo-3,5-dimethoxy-benzoic acid methyl ester | 5.2 g, 93% | COC(C1=C(C(=CC(=C1)OC)OC)Br)=O | C10H11BrO4
